US08222424B2
3-Chlorosulfonyl-4-methyl-benzoic acid
Sodium chloride (8 g, 138 mmol) is added to chlorosulfonic acid (30 mL, 451 mmol) and in small portions 4-methyl-benzoic acid (4 g, 29 mmol) is added to the stirred mixture. After complete addition, the reaction is heated at 122° C. for 16 h. The reaction mixture is cooled and poured into ice-water. The organic material is extracted with ethyl acetate. The organic layer is washed with a saturated sodium chloride solution, dried over magnesium sulfate, filtered, and the solvent is removed in vacuo. The residue is used as is in the next step.

reactant | Sodium chloride | 138 mmol, 8 g | [Cl-].[Na+]
reactant | chlorosulfonic acid | 451 mmol, 30 mL | ClS(=O)(=O)O | ClHO3S
reactant | 4-methyl-benzoic acid | 29 mmol, 4 g | CC1=CC=C(C(=O)O)C=C1 | C8H8O2
product | 3-Chlorosulfonyl-4-methyl-benzoic acid | ClS(=O)(=O)C=1C=C(C(=O)O)C=CC1C | C8H7ClO4S
